US07625888B2
Step C: (R)-N-(tert-Butoxycarbonyl)-2,4,5-trifluorophenylalanine
A solution of 2.41 g (7.5 mmol) of (R)-N-(tert-butoxycarbonyl)-2,4,5-trifluorophenylalanine methyl ester in approximately 200 mL of a mixture of tetrahydrofuran:methanol: 1N lithium hydroxide (3:1:1) was stirred at 50° C. for 4 h. The reaction was cooled, acidified with 5% hydrochloric acid (aqueous) and extracted with ethyl acetate. The combined organic phases were washed with brine, dried over magnesium sulfate and concentrated in vacuo to give the title compound. LC-MS 220.9 (M+1-BOC).

reactant | (R)-N-(tert-butoxycarbonyl)-2,4,5-trifluorophenylalanine methyl ester | 7.5 mmol, 2.41 g | COC([C@H](NC(=O)OC(C)(C)C)CC1=C(C=C(C(=C1)F)F)F)=O | C15H18F3NO4
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | lithium hydroxide | 1N | [OH-].[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
product | (R)-N-(tert-Butoxycarbonyl)-2,4,5-trifluorophenylalanine | C(C)(C)(C)OC(=O)N[C@H](CC1=C(C=C(C(=C1)F)F)F)C(=O)O | C14H16F3NO4
